US07282588B2
N,N-dimethyl-2-[3-(4-nitrophenyl)-1H-pyrazol-1-yl]ethanamine
Following the procedure described for Intermediate 3 using 3-(4-nitrophenyl)-1H-pyrazol (2.4 mmol) and 2-chloro-N,N-dimethylethanamine hydrochloride provided the title compound. ESMS [M+H]+: 261.2.

reactant | 3-(4-nitrophenyl)-1H-pyrazol | 2.4 mmol | [N+](=O)([O-])C1=CC=C(C=C1)C1=NNC=C1 | C9H7N3O2
reactant | 2-chloro-N,N-dimethylethanamine hydrochloride | Cl.ClCCN(C)C
product | N,N-dimethyl-2-[3-(4-nitrophenyl)-1H-pyrazol-1-yl]ethanamine | CN(CCN1N=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-])C | C13H16N4O2
